US07015218B1
Ethyl 1-(4-fluorophenyl)-5-hydroxypyrazole-4-carboxylate
To ethanol (30 ml) were added 4-fluorophenylhydrazine (7.75 g) and ethyl ethoxymethylenemalonate (2.5 g), and the mixture was refluxed for 3 h. The solvent was evaporated under reduced pressure and diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give the title compound (2.5 g), melting point: 127–128° C.

reactant | 4-fluorophenylhydrazine | 7.75 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | ethyl ethoxymethylenemalonate | 2.5 g | C(C)OC=C(C(=O)OCC)C(=O)[O-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 1-(4-fluorophenyl)-5-hydroxypyrazole-4-carboxylate | 2.5 g | FC1=CC=C(C=C1)N1N=CC(=C1O)C(=O)OCC | C12H11FN2O3
